US04062858
N-Butyl-11-(butylimino)-1-ethyl-1,5,6,11-tetrahydrobenzo-[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-4-amine
10.8 g. of 4-chloro-1-ethyl-5,6-dihydrobenzo[5,6]-cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one (0.035 mol.) and 100 ml. of butylamine are reacted in an autoclave by the procedure of Example 5, yield: 9.8 g. (70%); m.p. 124°-125° (ether; refrigerator).

reactant | 4-chloro-1-ethyl-5,6-dihydrobenzo[5,6]-cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one | 0.035 mol | ClC1=C2C(=NC3=C1C=NN3CC)C(C3=C(CC2)C=CC=C3)=O | C17H14ClN3O
reactant | butylamine | C(CCC)N | C4H11N
solvent | ether | CCOCC | C4H10O
product | N-Butyl-11-(butylimino)-1-ethyl-1,5,6,11-tetrahydrobenzo-[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-4-amine | C(CCC)NC1=C2C(=NC3=C1C=NN3CC)C(C3=C(CC2)C=CC=C3)=NCCCC | C25H33N5
